* source PROIECT_OGLINDA
.EXTERNAL OUTPUT Vcc
.EXTERNAL OUTPUT -Vcc
.EXTERNAL OUTPUT Vref1
.EXTERNAL OUTPUT Vref2
R_Rs         OUT1 VCC R_Rs {r} TC=0,0 
.model        R_Rs RES R=1 DEV=1% TC1=0 TC2=0
R_R1         N00078 VCC R_R1 33k TC=0,0 
.model        R_R1 RES R=1 DEV=1% TC1=0 TC2=0
Q_Q1         N00078 N00078 0 BC546A 
Q_Q2         OUT1 N00078 0 BC546A 
R_R2         N01425 N02883 R_R2 1k TC=0,0 
.model        R_R2 RES R=1 DEV=1% TC1=0 TC2=0
R_R5         N01705 N01718 R_R5 2.05k TC=0,0 
.model        R_R5 RES R=1 DEV=1% TC1=0 TC2=0
R_R4         VREF1 N01705 R_R4 1k TC=0,0 
.model        R_R4 RES R=1 DEV=1% TC1=0 TC2=0
R_R7         N02012 0 R_R7 1k TC=0,0 
.model        R_R7 RES R=1 DEV=1% TC1=0 TC2=0
R_R6         N02012 VCC R_R6 4.64k TC=0,0 
.model        R_R6 RES R=1 DEV=1% TC1=0 TC2=0
R_R3         0 N02883 R_R3 2.05k TC=0,0 
.model        R_R3 RES R=1 DEV=1% TC1=0 TC2=0
V_V1         VCC 0 16V
V_V2         -VCC 0 -16V
R_R8         VREF2 N07458 R_R8 1k TC=0,0 
.model        R_R8 RES R=1 DEV=1% TC1=0 TC2=0
R_R9         N07458 N07462 R_R9 2.33k TC=0,0 
.model        R_R9 RES R=1 DEV=1% TC1=0 TC2=0
R_R10         VCC N07710 R_R10 1k TC=0,0 
.model        R_R10 RES R=1 DEV=1% TC1=0 TC2=0
R_R11         0 N07710 R_R11 1.91k TC=0,0 
.model        R_R11 RES R=1 DEV=1% TC1=0 TC2=0
R_R12         N08576 N07462 R_R12 700 TC=0,0 
.model        R_R12 RES R=1 DEV=1% TC1=0 TC2=0
R_R13         N08448 VCC R_R13 480 TC=0,0 
.model        R_R13 RES R=1 DEV=1% TC1=0 TC2=0
D_D1         N08576 0 mydiode 
D_D2         N09718 0 mydiode 
V_V3         N09718 0 16V
R_R14         N07462 N152060 R_R14 770 TC=0,0 
.model        R_R14 RES R=1 DEV=1% TC1=0 TC2=0
Q_Q3         N08448 N152060 0 BC546A 
X_U4A         N02012 VREF1 VCC -VCC VREF1 LM158
X_U4B         OUT1 N01425 VCC -VCC N01425 LM158
X_U5A         N02883 N01705 VCC -VCC N01718 LM158
X_U5B         N07458 N01718 VCC -VCC N07462 LM158
X_U6A         N07710 VREF2 VCC -VCC VREF2 LM158
.PARAM  r=13k
